US08623889B2
To a solution of (R)-methyl 2-(3-(cyclopropanecarboxamido)isoquinolin-7-yloxy)propanoate (0.301 mmol, 0.301 mmol) in tetrahydrofuran (5.0 mL, 62 mmol) at −78° C. was added 1.0 M of lithium tetrahydroaluminate in tetrahydrofuran (0.40 mL). The reaction mixture was cooled at −78° C. for one hour, and then stirred at room temperature for an additional hour. The reaction mixture was quenched by sequential addition of 20 μL water, then 20 μL 15% aq NaOH, then 60 μL water. The resulting mixture was stirred at room temperature for 15 minutes, then diluted with dichloromethane, dried over MgSO4, filtered through celite, and evaporated in vacuo. The crude product was purified via reverse phase HPLC and lyophilized to yield 37.2 mg (43%) of (R)—N-(7-(1-hydroxypropan-2-yloxy)isoquinolin-3-yl)cyclopropanecarboxamide. LCMS (ESI): RT (min)=3.213, M+H=287.1, method=E; 1H NMR (400 MHz, DMSO-d6) δ 10.72 (s, 1H), 8.98 (s, 1H), 8.36 (s, 1H), 7.77 (d, J=9.0 Hz, 1H), 7.47 (d, J=2.0 Hz, 1H), 7.34 (dd, J=9.0, 2.4 Hz, 1H), 4.89 (s, 1H), 4.58 (dd, J=11.2, 5.7 Hz, 1H), 3.56 (t, J=15.1 Hz, 2H), 2.04 (td, J=7.7, 3.9 Hz, 1H), 1.28 (d, J=6.1 Hz, 3H), 0.89-0.71 (m, 4H).

reactant | (R)-methyl 2-(3-(cyclopropanecarboxamido)isoquinolin-7-yloxy)propanoate | 0.301 mmol | C1(CC1)C(=O)NC=1N=CC2=CC(=CC=C2C1)O[C@@H](C(=O)OC)C | C17H18N2O4
reactant | lithium tetrahydroaluminate | 1.0 M | [AlH4-].[Li+]
solvent | tetrahydrofuran | 0.40 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 62 mmol, 5.0 mL | O1CCCC1 | C4H8O
product | (R)—N-(7-(1-hydroxypropan-2-yloxy)isoquinolin-3-yl)cyclopropanecarboxamide | 37.2 mg, 43% | OC[C@@H](C)OC1=CC=C2C=C(N=CC2=C1)NC(=O)C1CC1 | C16H18N2O3
